US07572808B2
A. Preparation of 3-((7-(4-chlorophenyl)-3-oxo-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-2(3H)-yl)methyl)-6-(trifluoromethyl)picolinoyl chloride
To a stirring solution of 3-((7-(4-chlorophenyl)-3-oxo-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-2(3H)-yl)methyl)-6-(trifluoromethyl)picolinic acid (71 mg, 0.133 mmol) in anhydrous ClCH2CH2Cl (1 mL) at room temperature was added dropwise thionyl chloride (2 mL). The mixture was then stirred at 80° C. for 1 h. After cooling to room temperature, the reaction mixture was concentrated under reduced pressure. The residue was evaporated with toluene (5 mL×2), and dried in high vacuum to afford the title compound (72 mg) as a yellow foam, which was used in the next reaction without further purification.

reactant | 3-((7-(4-chlorophenyl)-3-oxo-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-2(3H)-yl)methyl)-6-(trifluoromethyl)picolinic acid | 0.133 mmol, 71 mg | ClC1=CC=C(C=C1)C1=C(C=2N(C=C1)C(N(N2)CC=2C(=NC(=CC2)C(F)(F)F)C(=O)O)=O)C2=CC=NC=C2 | C25H15ClF3N5O3
reactant | thionyl chloride | 2 mL | S(=O)(Cl)Cl | Cl2OS
solvent | ClCH2CH2Cl | 1 mL | C(CCl)Cl | C2H4Cl2
product | 3-((7-(4-chlorophenyl)-3-oxo-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-2(3H)-yl)methyl)-6-(trifluoromethyl)picolinoyl chloride | 72 mg | ClC1=CC=C(C=C1)C1=C(C=2N(C=C1)C(N(N2)CC=2C(=NC(=CC2)C(F)(F)F)C(=O)Cl)=O)C2=CC=NC=C2 | C25H14Cl2F3N5O2
